US08809446B2
Preparation of Latex Containing 10% AAEM
Same procedure as Example 8 except monomers pre-emulsion was prepared by mixing 135 g of water, 7 g of Dowfax 2A1 surfactant and 300 g of acrylic monomers consisting of methylmethacrylate/n-butyl acrylate/acrylic acid/AAEM in ratio of 40.0/48.0/2.0/10.0. Resulting latex had the following properties:

reactant | methylmethacrylate n-butyl acrylate acrylic acid AAEM | COC(C(=C)C)=O.C(C=C)(=O)OCCCC.C(C=C)(=O)O.CC(=C)C(=O)OCCOC(=O)CC(=O)C
solvent | water | 135 g | O | H2O
product | AAEM | CC(=C)C(=O)OCCOC(=O)CC(=O)C | C10H14O5
